US05753635
To 6-(2-benzyloxy-5-cyanophenoxy)-4-chloro-5-nitro-2-methylthiopyrimidine (2.5 g, 5.83 mmol) in 50 mL acetonitrile at 0° C. was added cesium carbonate (2.47 g, 7.58 mmol) followed by benzylamine (0.64 mL) and the reaction mixture was heated at 50° C. for 4 hours. The reaction was filtered, the filtrate evaporated and the residue chromatographed on silica gel (ethyl acetate:hexane) to afford 1.82 g (65%) of 6-(2-benzyloxy-5-cyanophenoxy)-4-(benzyl)amino-5-nitro-2-methylthiopyrimidine, a compound of formula (E).

reactant | 6-(2-benzyloxy-5-cyanophenoxy)-4-chloro-5-nitro-2-methylthiopyrimidine | 5.83 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=C(OC2=C(C(=NC(=N2)SC)Cl)[N+](=O)[O-])C=C(C=C1)C#N | C19H13ClN4O4S
reactant | cesium carbonate | 7.58 mmol, 2.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzylamine | 0.64 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(2-benzyloxy-5-cyanophenoxy)-4-(benzyl)amino-5-nitro-2-methylthiopyrimidine | 1.82 g, 65% | C(C1=CC=CC=C1)OC1=C(OC2=C(C(=NC(=N2)SC)NCC2=CC=CC=C2)[N+](=O)[O-])C=C(C=C1)C#N | C26H21N5O4S
